US07456164B2
4-(4-{3-[4-(2-Hydroxyethyl)-piperidin-1-yl]propoxy}phenyl)-tetrahydro-pyran-4-carbonitrile
4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile (185 mg, 0.91 mmol), 2-[1-(3-chloro-propyl)-piperidin-4-yl]-ethanol (300 mg, 1.46 mmol), DMF (4 ml) and K2CO3 (497 mg, 3.60 mmol) were reacted together according to general procedure E. Purification by chromatography on silica, eluant DCM:MeOH:NH3 (92:6:2) provided the title compound (220 mg, 65%) as a pale pink solid. 1H NMR (400 MHz, CDCl3) δ 7.37 (d, 2H), 6.93 (d, 2H), 4.11-4.04 (m, 2H), 4.01 (t, 2H), 3.89 (td, 2H), 3.70 (t, 2H), 2.97-2.87 (m, 2H), 2.48 (t, 2H), 2.15-1.88 (m, 8H), 1.77-1.57 (m, 3H), 1.57-1.38 (m, 3H), 1.35-1.21 (m, 2H).

reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile | 0.91 mmol, 185 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
reactant | 2-[1-(3-chloro-propyl)-piperidin-4-yl]-ethanol | 1.46 mmol, 300 mg | ClCCCN1CCC(CC1)CCO | C10H20ClNO
reactant | K2CO3 | 3.60 mmol, 497 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-(4-{3-[4-(2-Hydroxyethyl)-piperidin-1-yl]propoxy}phenyl)-tetrahydro-pyran-4-carbonitrile | 220 mg, 65% | OCCC1CCN(CC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C22H32N2O3
